US09284333B2
A mixture of 2-pyrimidine-carboxaldehyde (11.5 g, 107 mmol), (S)-(−)-2-methyl-2-propanesulfinamide (12.9 g, 107 mmol) and potassium hydrogensulfate (14.5 g, 107 mmol) in toluene (57 ml) was heated at 50° C. overnight. After decanting the solution, the solid residue is washed 3 times with dichloromethane, the washings combined with the decanted solution and solvents are evaporated in vacuo to give 18.2 g (81%) of (S)-2-methyl-propane-2-sulfinic acid 1-pyrimidin-2-yl-methylideneamide. LC/MS (method 3): Rt=1.29 min; m/z=212.09 (M+H+).

reactant | 2-pyrimidine-carboxaldehyde | 107 mmol, 11.5 g | N1=C(N=CC=C1)C=O | C5H4N2O
reactant | (S)-(−)-2-methyl-2-propanesulfinamide | 107 mmol, 12.9 g | CC(C)(C)[S@](=O)N | C4H11NOS
reactant | potassium hydrogensulfate | 107 mmol, 14.5 g | S(=O)(=O)(O)[O-].[K+]
solvent | toluene | 57 ml | C1(=CC=CC=C1)C | C7H8
product | (S)-2-methyl-propane-2-sulfinic acid 1-pyrimidin-2-yl-methylideneamide | 18.2 g, 81% | N1=C(N=CC=C1)C=N[S@@](=O)C(C)(C)C | C9H13N3OS
